US04655819
A mixture of 2,6-dichloroquinoxaline (0.99 g 0.005 mole), ethyl 2-(2-fluoro-4-hydroxyphenoxy)propionate (1.14 g, 0.005 mole), anhydrous potassium carbonate (0.76 g, 0.0055 mole) and dimethylformamide (20 ml) was stirred and heated at 100° C. for 2 hours. The mixture was cooled and then poured into water (200 ml) to give a white precipitate which was collected by filtration. Recrystallization from ethanol gave the product, ethyl 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionate, as colourless crystals (1.3 g; 66%), mp 110° C. Proton magnetic resonance spectrum (CDCl3, δ in ppm); 1.3, t, 3H (CH2CH3); 1.7, d, 3H (CHCH3); 4.3, q, 2H (OCH2CH3); 4.8, q, 1H (CHCH3); 6.9-7.5, m, 3H (phenoxy ring); 7.8, bs, 2H (C7, C8 of quinoxaline); 8.2, bs, 1H (C5 of quinoxaline); 8.8, s, 1H (C3 of quinoxaline).

reactant | 2,6-dichloroquinoxaline | 0.005 mole, 0.99 g | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
reactant | ethyl 2-(2-fluoro-4-hydroxyphenoxy)propionate | 0.005 mole, 1.14 g | FC1=C(OC(C(=O)OCC)C)C=CC(=C1)O | C11H13FO4
reactant | potassium carbonate | 0.0055 mole, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | ethyl 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionate | FC1=C(OC(C(=O)OCC)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)Cl | C19H16ClFN2O4
